US04454131
Dipropyl 3-methyl-4-(4-bromobenzene-sulfonyloxy)-2,5-thiophene-dicarboxylate (Compound No. 332)
A mixture of 2.3 g (8 mmol) of dipropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate, 20 ml of dioxane, 40 ml of acetone, 1.6 g (12 mmol) of anhydrous potassium carbonate and 2.3 g (10 mmol) of 4-bromobenzene-sulfonyl chloride was refluxed for about 10 hours, removed of dioxane and acetone by distillation, added with ethyl ether, washed with water, and dried with anhydrous magnessium sulfate. The solvent was removed by distillation, and recrystallization was effected with use of methanol to give 3.8 g (94%) of the desired white crystalline compound, m.p. 73°-74° C.

reactant | dipropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate | 8 mmol, 2.3 g | CC1=C(SC(=C1O)C(=O)OCCC)C(=O)OCCC | C13H18O5S
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 12 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobenzene-sulfonyl chloride | 10 mmol, 2.3 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Dipropyl 3-methyl-4-(4-bromobenzene-sulfonyloxy)-2,5-thiophene-dicarboxylate | CC1=C(SC(=C1OS(=O)(=O)C1=CC=C(C=C1)Br)C(=O)OCCC)C(=O)OCCC | C19H21BrO7S2
